US07893056B2
To a solution of methyl (2R)-2-piperidinecarboxylate hydrochloride (1.0 g, 5.56 mmol) and HOBt (0.90 g, 6.67 mmol) in CH2Cl2 (20 mL) was added 4-methylmorpholine (2.44 mL, 22.24 mmol), N-{[(phenylmethyl)oxy]carbonyl}glycine (1.16 g, 5.56 mmol), and EDCI (1.28 g, 6.67 mmol). After stirring overnight, the solution was washed 6 N aq. HCl (100 mL) and water (100 mL). The aqueous layer was extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL), and then dried over anhydrous MgSO4 and concentrated in vacuo to provide methyl (2R)-1-(N-{[(phenylmethyl)oxy]carbonyl}glycyl)-2-piperidinecarboxylate (2.029 g, 99%). LCMS: (M+H)+: 335.1.

reactant | methyl (2R)-2-piperidinecarboxylate hydrochloride | 5.56 mmol, 1.0 g | Cl.N1[C@H](CCCC1)C(=O)OC
reactant | HOBt | 6.67 mmol, 0.90 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 22.24 mmol, 2.44 mL | CN1CCOCC1 | C5H11NO
reactant | N-{[(phenylmethyl)oxy]carbonyl}glycine | 5.56 mmol, 1.16 g | C1(=CC=CC=C1)COC(=O)NCC(=O)O | C10H11NO4
reactant | EDCI | 6.67 mmol, 1.28 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl (2R)-1-(N-{[(phenylmethyl)oxy]carbonyl}glycyl)-2-piperidinecarboxylate | 2.029 g, 99% | C1(=CC=CC=C1)COC(=O)NCC(=O)N1[C@H](CCCC1)C(=O)OC | C17H22N2O5
